US08193228B2
3-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]-1,1-difluoro-2-[4-(1-methyl-1H-pyrazol-5-yl)phenyl]propan-2-ol
Hydrogen chloride (4 M in 1,4-dioxane) (1 mL, 0.25 mmol) was added to an ambient temperature solution of 3-[4-(2,2-dimethylpropyl)-1-trityl-1H-imidazol-2-yl]-1,1-difluoro-2-[4-(1-methyl-1H-pyrazol-5-yl)phenyl]propan-2-ol (30 mg, 0.05 mmol) in methanol (1 mL). After stirring at 70° C. for 1 h, volatiles were removed in vacuo. The residue was partitioned between diethyl ether and 1 N hydrochloric acid. The aqueous phase was washed with diethyl ether, basified with 2.5 N aqueous sodium hydroxide and extracted with ethyl acetate. Combined extracts were washed with brine, dried (sodium sulfate) and concentrated in vacuo to afford the title compound. 1H NMR (500 MHz, CD3OD) δ 7.58 (d, J=8.0 Hz, 2H), 7.46 (d, J=1.5 Hz, 1H), 7.39 (d, J=8.0 Hz, 2H), 6.51 (s, 1H), 6.30 (d, J=1.5 Hz, 1H), 5.98 (t, J=55.7 Hz, 1H), 3.81 (s, 3H), 3.42-3.28 (m, 2H), 2.31 (s, 2H), 0.76 (s, 9H).

reactant | Hydrogen chloride | 0.25 mmol, 4 M, 1 mL | Cl | ClH
reactant | 3-[4-(2,2-dimethylpropyl)-1-trityl-1H-imidazol-2-yl]-1,1-difluoro-2-[4-(1-methyl-1H-pyrazol-5-yl)phenyl]propan-2-ol | 0.05 mmol, 30 mg | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(C(F)F)(O)C1=CC=C(C=C1)C1=CC=NN1C)(C)C | C40H40F2N4O
solvent | methanol | 1 mL | CO | CH4O
product | 3-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]-1,1-difluoro-2-[4-(1-methyl-1H-pyrazol-5-yl)phenyl]propan-2-ol | CC(CC=1N=C(NC1)CC(C(F)F)(O)C1=CC=C(C=C1)C1=CC=NN1C)(C)C | C21H26F2N4O
